US07897631B2
To a 25 mL round-bottomed flask equipped with a magnetic stir bar was added 2-azidoethanamine (0.102 g, 1.18 mmol), DCM (5 mL) and then triethylamine (0.239 g, 2.37 mmol). To this reaction mixture, tetradecanoyl chloride (0.292 g, 1.18 mmol) was added dropwise and allowed to stir at room temperature for 24 hr. Then, the reaction mixture was concentrated de vacuo and then purified via silica gel column chromatography (100% dichloromethane to 1:40 methanol: dichloromethane) to give N-(2-azidoethyl)tetradecanamide (0.245 g, 79% yield). 1H NMR (300 MHz, CDCl3) δ 5.86 (s, 1H), δ 3.42 (s, 4H), δ 2.18 (t, 2H), δ 1.62 (m, 2H), δ 1.24 (m, 20H), δ 0.87 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 173.7, 51.2, 39.1, 36.9, 32.1, 29.9, 29.8, 29.7, 29.6, 29.5, 25.9, 22.9, 14.4 ppm; HRMS (ESI) calcd for C16H32N4O (M+) 296.2576. found 296.2566.

reactant | 2-azidoethanamine | 1.18 mmol, 0.102 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.37 mmol, 0.239 g | C(C)N(CC)CC | C6H15N
reactant | tetradecanoyl chloride | 1.18 mmol, 0.292 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-azidoethyl)tetradecanamide | 0.245 g, 79% yield | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
